US07074798B2
a) 4-[7-(2-Butynyl)-3-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[7-(2-Butynyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (1.1 g) and potassium carbonate (0.43 g) were dissolved in N,N-dimethylformamide (15 ml), and chloromethyl pivalate (0.60 ml) was added to the solution while cooling on ice. After the mixture was stirred at room temperature overnight, the reaction mixture was diluted with ethyl acetate and washed with water. Insoluble white solid was collected by filtration, and washed with a mixture of hexane-ethyl acetate (1:1) to give 0.57 g of the title compound.

reactant | 4-[7-(2-Butynyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 1.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2NC(NC(C2N1CC#CC)=O)=O | C18H24N6O4
reactant | potassium carbonate | 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl pivalate | 0.60 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[7-(2-Butynyl)-3-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.57 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1CC#CC)=O)=O)COC(C(C)(C)C)=O | C24H34N6O6
